US08420642B2
3-(2-Methoxy-ethoxy)-2-nitro-5-phenoxy-pyridine (0.4 mmol) is dissolved in acetic acid (1.3 ml). After addition of water (1.3 ml), zinc powder (6 eq.) is added and the reaction suspension is heated to 100° C. for 3 h. The reaction suspension is cooled to room temperature and filtrated. The filtrate is pored into 3.5% NaOH (30 ml) and extracted with dichloromethane. The combined organic layers are extracted with brine, dried over MgSO4 and the solvent is removed in vacuo. 3-(2-Methoxyethoxy)-5-phenoxy-pyridine-2-ylamine is obtained as brown oil in a yield of 76%. HPLC (method C): 1.43 min; LC-MS (method A): 0.808 min, 261.15 (M+H+).

reactant | 3-(2-Methoxy-ethoxy)-2-nitro-5-phenoxy-pyridine | 0.4 mmol | COCCOC=1C(=NC=C(C1)OC1=CC=CC=C1)[N+](=O)[O-] | C14H14N2O5
reactant | water | 1.3 ml | O | H2O
solvent | acetic acid | 1.3 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 6 eq. | [Zn] | Zn
product | 3-(2-Methoxyethoxy)-5-phenoxy-pyridine-2-ylamine | yield of 76% | COCCOC=1C(=NC=C(C1)OC1=CC=CC=C1)N | C14H16N2O3
